US06358980B1
Ethyl 4-{[4-(2-butynyloxy)phenyl]sulfonyl}-1-isopropyl-4-piperidine carboxylate was prepared according to the general method as outlined in example 1 (step 6), starting from (4-but-2-ynyloxy-benzenesulfonyl)-acetic acid ethyl ester (6 g, 20.3 mmol) and isopropyl [bis(2-chloroethyl)]amine hydrochloride (4.88 g, 22.3 mmol); 5.28 g brown oil. Yield 64%; MS: 408.2 (M+H)+

reactant | (4-but-2-ynyloxy-benzenesulfonyl)-acetic acid ethyl ester | 20.3 mmol, 6 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C14H16O5S
reactant | isopropyl [bis(2-chloroethyl)]amine hydrochloride | 22.3 mmol, 4.88 g | Cl.C(C)(C)N(CCCl)CCCl
product | Ethyl 4-{[4-(2-butynyloxy)phenyl]sulfonyl}-1-isopropyl-4-piperidine carboxylate | Yield 64% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)C(C)C)C(=O)OCC | C21H29NO5S
